US07601717B2
2-Amino-5-butyryl-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one
The title compound was prepared by the method described in Example 5 using 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride (0.5 g, 1.59 mmol), butyric anhydride (0.31 ml, 1.91 mmol), pyridine (7.5 ml) and catalytic 4-(dimethylamino)pyridine to give the product as a yellow solid (0.27 g, 55%). 1H NMR (CD3OD) δ 4.62 (dd, J=4.0 Hz, J=10.4 Hz, 1H), 3.78 (m, 1H), 3.74 (d, J=12.4 Hz, 1H), 3.44 (dd, J=2.4 Hz, J=10.4 Hz, 1H), 3.18 (dd, J=4.8 Hz, J=12.8 Hz, 1H), 2.56-2.49 (m, 1H), 1.42-1.34 (m, 1H), 1.63-1.52 (m, 2H), 1.15 (d, J=6.8 Hz, 3H), 0.87 (t, J=7.4 Hz, 3H). MS: ESI (positive): 312 (M+H).

reactant | 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride | 1.59 mmol, 0.5 g | Cl.Cl.NC=1NC=2NCC(NC2C(N1)=O)C(C(C)O)O
reactant | butyric anhydride | 1.91 mmol, 0.31 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-Amino-5-butyryl-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one | NC=1NC=2NCC(N(C2C(N1)=O)C(CCC)=O)C(C(C)O)O | C13H21N5O4
